Pro230
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:13:25

*Schematic Netlist:
V1KHz VIN 0 DC 0 SIN(0é0 1é1 1KHzé1K 0é0 0é0 0) AC 1 0
XE1 VIN 0 VOUT 0 ETABLE
R1 0 VOUT 1K

.SAVE 0 VIN VOUT V1KHz#branch @V1KHz[z] @R1[i] @R1[p] @V1KHz[p]

*PLOT DC -1 1 A=VIN

*Selected Circuit Analyses:
.DC V1KHz 0 30 0.1

*Models and Subcircuit:
.SUBCKT ETABLE 1 2 3 4
E1 3 4 TABLE {V(1, 2)} =
+ (2,3)(4,5)(6,7)(8,9)(10,11)(12,13)(14,12)(16,11)(18,10)(20,14)
.ENDS ETABLE

.END
